US07491737B2
Step C: 3,5-Bis(trifluoromethyl)benzyl 3-methylene-1-isopropylcyclopentanecarboxamide
The solution of 3-methylene-1-isopropylcyclopentanecarboxylic acid from the previous step (1.25 g, 7.44 mmol) 3,5-bis(trifluoromethyl)benzylamine hydrochloride (2.08 g, 7.44 mmol), dimethylaminopyridine (111.0 mg, 0.91 mmol) and diisopropylethylamine (1.29 mL, 7.44 mmol) and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (EDC, 2.85 g, 14.9 mmol) in dichloromethane (50 mL) was stirred at room temperature for 24 hrs. The reaction mixture was diluted with dichloromethane (100 mL) and washed with water (3×50 mL), brine (1×50 mL), dried (anhydrous sodium sulfate) and the solvent was evaporated under reduced pressure. The crude product was purified via mplc (Lobar Fertigsaule, LiChroprep, 40-63 μm, ethyl acetate/hexanes (1:4)) yielding 910 mg (31%) of pure product. 1H NMR (500 MHz, CDCl3): 7.76 (s, 1H1), 7.70 (s, 2H), 6.20 (bs, 1H), 4.95 (bs, 1H), 4.88 (bs, 1H), 4.65 (dd, J=15.70, 6.40 Hz, 1H), 4.50 (dd, J=15.50, 5.70 Hz, 1H), 2.68 (bd, J=16.20 Hz, 1H), 2.50 to 2.10 (bm, 4H), 1.96 (h, J=6.9 Hz, 1H), 1.74 (m, 1H), 0.87 (d, J=6.9 Hz, 3H), 0.85 (d, J=7.3 Hz, 31).

reactant | 3-methylene-1-isopropylcyclopentanecarboxylic acid | C=C1CC(CC1)(C(=O)O)C(C)C | C10H16O2
reactant | 3,5-bis(trifluoromethyl)benzylamine hydrochloride | 7.44 mmol, 1.25 g | Cl.FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F
reactant | dimethylaminopyridine | 0.91 mmol, 111.0 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | diisopropylethylamine | 7.44 mmol, 1.29 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 14.9 mmol, 2.85 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3,5-Bis(trifluoromethyl)benzyl 3-methylene-1-isopropylcyclopentanecarboxamide | 910 mg, 31% | FC(C=1C=C(CC2C(CCC2=C)(C(=O)N)C(C)C)C=C(C1)C(F)(F)F)(F)F | C19H21F6NO
